US06624159B2
5-Iodo-1-methyl-7-oxo-2,3-dihydro-1H,7H-pyrido[3,2,1-ij]cinnoline-8-carboxylic acid [AM.7, Y=iodo]
A mixture of acetic acid (1 mL), 6N HCl (1 mL), and 3,3-di(tert-butyl) 8-ethyl 5-iodo-1-methyl-7-oxo-1,2-dihydro-3H,7H-pyrido[3,2,1-ij]cinnoline-3,3,8-tricarboxylate (Preparation 38, 0.165 g) is heated in an oil bath at 110° C. for 1.5 h. Additional acetic acid (1 mL) and 6N HCl (1 mL) is added and heating continued for 2 h. The reaction vessel is purged with a strong nitrogen stream while heating in the oil bath at 115° C. until dry solid remains. Dimethylsulfoxide (2 mL) is then added and the temperature raised to 150° C. for 1 h. The mixture is allowed to cool slowly overnight. The mixture is diluted with chloroform, treated with 2 g of silica gel, and concentrated at reduced pressure. The residue is chromatographed using 35 g of silica gel, packed and eluted with acetone/chloroform/methanol/acetic acid (3/6.6/0.4/0.5%), to obtain 53 mg (52%) of the title compound as a tan colored solid. Physical characteristics: 1H NMR (DMSO-d6) δ14.88, 8.80, 8.49, 8.18, 3.50, 3.15, 2.88; MS (ESI+) m/z 371 (M+H)+; TLC (silica gel GF): Rf=0.46 acetone/chloroform/methanol/acetic acid (3/6.5/0.5/0.5%).

reactant | HCl | 6N, 1 mL | Cl | ClH
reactant | 3,3-di(tert-butyl) 8-ethyl 5-iodo-1-methyl-7-oxo-1,2-dihydro-3H,7H-pyrido[3,2,1-ij]cinnoline-3,3,8-tricarboxylate | 0.165 g | IC=1C=C2C(CN(N3C2=C(C1)C(C(=C3)C(=O)OCC)=O)C)(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C25H31IN2O7
reactant | HCl | 6N, 1 mL | Cl | ClH
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 5-Iodo-1-methyl-7-oxo-2,3-dihydro-1H,7H-pyrido[3,2,1-ij]cinnoline-8-carboxylic acid | 53 mg, 52% | IC=1C=C2CCN(N3C2=C(C1)C(C(=C3)C(=O)O)=O)C | C13H11IN2O3
